US06320050B1
A solution 3-cyclopentyl-2-(4-methylsulfanyl-phenyl)-N-thiazol-2-yl-propionamide (75 mg, 0.216 mmol) in methylene chloride (1 mL) was treated with 3-chloroperoxybenzoic acid (75% grade, 50 mg, 0.216 mmol). The reaction mixture was immediately monitored by thin layer chromatography and the results indicated the immediate absence of starting material. The reaction mixture was partitioned between water and methylene chloride and then washed with a saturated aqueous sodium bicarbonate solution. The organic layer was further washed with water and then dried over magnesium sulfate, filtered, and concentrated in vacuo. Recrystallization from 1/1 hexanes/ethyl acetate afforded 3-cyclopentyl-2-(4-methanesulfinyl-phenyl)-N-thiazol-2-yl-propionamide (25 mg, 32%) as a white solid: mp 170-173° C.; EI-HRMS m/e calcd for C18H22N2O2S2 (M+) 362.1123, found 362.1121.

reactant | 3-cyclopentyl-2-(4-methylsulfanyl-phenyl)-N-thiazol-2-yl-propionamide | 0.216 mmol, 75 mg | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC=C(C=C1)SC | C18H22N2OS2
reactant | 3-chloroperoxybenzoic acid | 0.216 mmol, 50 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-(4-methanesulfinyl-phenyl)-N-thiazol-2-yl-propionamide | 25 mg, 32% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC=C(C=C1)S(=O)C | C18H22N2O2S2
